US04857645
To a solution of 1.67 g of carbazole in 10 ml of toluene was added 5.4 ml of a solution of 2.04M boron trichloride--toluene under ice-cooling, and the mixture was refluxed with heating on an oil bath for 1 hr. After ice-cooling, the mixture was mixed with 1 ml of methyl thiocyanate, stirred at room temperature for 3 hr., mixed with 30 ml of water and refluxed with heating on an oil bath for 1 hr. The product was extracted with toluene, dried over anhydrous magnesium sulfate, chromatographed on a column of 10 g of silica gel and eluted with toluene. The eluate was concentrated to give 2.16 g of the crude crystals. Recrystallization from methylene chloride--ether gave 2.08 g of carbazol-1-thiocarboxylic acid S-methyl ester melting at 122°-123° C. as crystals.

reactant | carbazole | 1.67 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | boron trichloride | 2.04M | B(Cl)(Cl)Cl | BCl3
reactant | methyl thiocyanate | 1 ml | CSC#N | C2H3NS
reactant | water | 30 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | carbazol-1-thiocarboxylic acid S-methyl ester | 2.08 g, Yield: 86% | CSC(=O)C1=CC=CC=2C3=CC=CC=C3NC12 | C14H11NOS
